US06239131B1
Preparation of 5-[3-[1-(2-toluoylmethyl)-2-oxo-5-(3,3-dimethylbutanoyl)-8-methyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepin-3-yl]ureido]-2-methylbenzoic acid
1-[1-(2-Toluoylmethyl)-2-oxo-5-(3,3-dimethylbutanoyl)-8-methyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepin-3-yl]-3-(3-methoxycarbonyl-4-methylphenyl)urea (0.94 g) was dissolved in tetrahydrofuran (20 ml), aqueous lithium hydroxide monohydrate (0.32 g) solution (10 ml) was added, the mixture was stirred at 40-50° C. for 4 hours. The reaction mixture was concentrated under reduced pressure, the residue was weakly acidified with 1N hydrochloric acid and extracted with chloroform. The organic layer was washed with water and saturated brine, dried over anhydrous magnesium sulfate, the solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography(chloroform:methanol=30:1), to thereby obtain 0.56 g of the title compound as colorless powder (Yield: 61%).

reactant | 1-[1-(2-Toluoylmethyl)-2-oxo-5-(3,3-dimethylbutanoyl)-8-methyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepin-3-yl]-3-(3-methoxycarbonyl-4-methylphenyl)urea | 0.94 g | C=1(C(=CC=CC1)C(=O)CN1C(C(CN(C2=C1C=C(C=C2)C)C(CC(C)(C)C)=O)NC(=O)NC2=CC(=C(C=C2)C)C(=O)OC)=O)C | C35H40N4O6
reactant | lithium hydroxide monohydrate | 0.32 g | O.[OH-].[Li+]
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 5-[3-[1-(2-toluoylmethyl)-2-oxo-5-(3,3-dimethylbutanoyl)-8-methyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepin-3-yl]ureido]-2-methylbenzoic acid | 0.56 g, Yield: 61% | C=1(C(=CC=CC1)C(=O)CN1C(C(CN(C2=C1C=C(C=C2)C)C(CC(C)(C)C)=O)NC(NC=2C=CC(=C(C(=O)O)C2)C)=O)=O)C | C34H38N4O6
